US09193721B2
Step A: 1-{8-Chloro-5-[4-(2-methoxyethyl)piperazin-1-yl]imidazo[1,5-a]pyridin-6-yl}ethanone
1-(8-Chloro-5-piperazin-1-ylimidazo[1,5-a]pyridine-6-yl)ethanone hydrochloride (16 mg, 0.052 mmol), N,N-diisopropylethylamine (27 μL, 0.16 mmol) and 1-bromo-2-methoxyethane (4.9 μL, 0.052 mmol) were stirred in acetonitrile (1.0 mL) for 22 hours at 65° C. Purification by preparative LCMS (pH 10) gave the desired compound (10 mg, 60%). LCMS calculated for C16H22ClN4O2 (M+H)+: m/z=337.1. found: 336.9.

reactant | 1-(8-Chloro-5-piperazin-1-ylimidazo[1,5-a]pyridine-6-yl)ethanone hydrochloride | 0.052 mmol, 16 mg | Cl.ClC=1C=2N(C(=C(C1)C(C)=O)N1CCNCC1)C=NC2
reactant | N,N-diisopropylethylamine | 0.16 mmol, 27 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-bromo-2-methoxyethane | 0.052 mmol, 4.9 μL | BrCCOC | C3H7BrO
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | 1-{8-Chloro-5-[4-(2-methoxyethyl)piperazin-1-yl]imidazo[1,5-a]pyridin-6-yl}ethanone | 10 mg, 60% | ClC=1C=2N(C(=C(C1)C(C)=O)N1CCN(CC1)CCOC)C=NC2 | C16H21ClN4O2
